US08440651B2
4-(2-(5-fluoro-1H-indol-4-yl)-6-((4-(oxetan-3-yl)piperidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine 130
4-(2-chloro-6-((4-(oxetan-3-yl)piperidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine (0.11 g) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 59.8 mg of 130 following reverse phase HPLC purification.

reactant | 4-(2-chloro-6-((4-(oxetan-3-yl)piperidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.11 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C2COC2)N2CCOCC2 | C20H26ClN5O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 4-(2-(5-fluoro-1H-indol-4-yl)-6-((4-(oxetan-3-yl)piperidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C2COC2)N2CCOCC2 | C28H31FN6O2
